US07795257B2
Title compound H, 3-Cyclopentyl-N-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-yl)-2-[4-(piperazine-1-sulfonyl)-phenyl]-propionamide (0.21 g, 0.354 mmol was suspended in formaldehyde (2 mL) to which 1 mL of formic acid was added. The mixture was heated to 70° C. for 7 h before being cooled and subsequently quenched into 2N NaOH and extracted with ethyl acetate. The combined organic layer was dried over MgSO4, filtered and evaporated to provide a brown foam which was purified over silica (0-20% EtOAc: methanol) to afford a white foam. This material was purified on a Chiracel column to afford pure (R)-3-Cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-N-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-yl)-propionamide as a white solid. 1H NMR (400 MHz, DMSO) δ 1.14 (m, 2H) 1.43 (d, J=4.80 Hz, 2H) 1.57 (d, J=8.34 Hz, 3H) 1.72 (d, J=5.05 Hz, 2H) 1.75-1.83 (m, 1H) 2.10 (s, 3H) 2.16 (m, 1H) 2.33 (d, J=4.04 Hz, 4H) 2.87 (s, 4H) 3.41-3.49 (m, 4H) 3.67-3.74 (m, 4H) 4.07 (t, J=7.58 Hz, 1H) 6.97 (d, J=9.09 Hz, 1H) 7.64-7.69 (m, 2H) 7.69-7.75 (m, 2H) 7.87 (d, J=8.84 Hz, 1H)

reactant | 3-Cyclopentyl-N-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-yl)-2-[4-(piperazine-1-sulfonyl)-phenyl]-propionamide | C1(CCCC1)CC(C(=O)NC=1SC2=NC(=CC=C2N1)N1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C28H36N6O4S2
reactant | formic acid | 1 mL | C(=O)O | CH2O2
solvent | formaldehyde | 2 mL | C=O | CH2O
product | (R)-3-Cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-N-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-yl)-propionamide | C1(CCCC1)C[C@@H](C(=O)NC=1SC2=NC(=CC=C2N1)N1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C29H38N6O4S2
